US05066658
N-([1,1'-Biphenyl]-4-ylmethyl)N'hydroxy-N'methylurea
Oxalyl chloride (1.3 ml, 15 mmol) was added to a suspension of 4-[l,l'biphenyl]ylacetic acid (2.12 g, 10 mmol) in benzene (25 ml), and the mixture was refluxed under nitrogen for 15 minutes. The resulting solution was evaporated and the residue, which solidified, was redissolved in acetone (20 ml). To this solution was added a solution of sodium azide (1.0 g, 15 mmol) in water (10 ml), and the mixture stirred vigorously at room temperature. Benzene (200 ml) was added, and the aqueous layer removed by pipette. The organic solution was then dried (MgsO4), filtered, and after boiling away about 10 ml of the solvent, the mixture was refluxed for one hour. The mixture was concentrated to a yellow Oil, which was dissolved in methylene chloride (50 ml). To this was added a solution prepared by heating N-methylhydroxylamine hydrochloride (0.6 g, 7 mmol) and triethylamine (1.2 ml, 8.6 mmol) in methylene chloride (20 ml). The mixture was stirred for 30 minutes, and the precipitate was collected by filtration and recrystallized from methanol to provide the named compound as 550 mq of white powder, mp 193°-194° C. (dec.).

reactant | Oxalyl chloride | 15 mmol, 1.3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-[l,l'biphenyl]ylacetic acid | 10 mmol, 2.12 g | C1(=CC=C(C=C1)CC(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | sodium azide | 15 mmol, 1.0 g | [N-]=[N+]=[N-].[Na+]
reactant | N-methylhydroxylamine hydrochloride | 7 mmol, 0.6 g | Cl.CNO
reactant | triethylamine | 8.6 mmol, 1.2 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | water | 10 ml | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | Benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | N-([1,1'-Biphenyl]-4-ylmethyl)N'hydroxy-N'methylurea | C1(=CC=C(C=C1)CNC(=O)N(C)O)C1=CC=CC=C1 | C15H16N2O2
